US05097061
In a 15-liter separable four-necked flask equipped with a stirrer and a reflux condenser were placed 3 liters of sufficiently dried diethyl ether, 915 g (5 moles) of o-bromostyrene and 31 g of bis(1,3-diphenylphosphino)propanenickel(II) chloride, and the above-mentioned diethyl ether solution of isobutylmagnesium bromide was added thereto dropwise with stirring at room temperature. After the completion of the addition, stirring was continued under the reflux of diethyl ether, until the reaction had been over. After the end of the reaction, the solution was cooled to room temperature, and was then thrown into pieces of ice in order to inactivate remaining isobutylmagnesium bromide. The resultant ether layer was separated by a separating funnel, and was washed with water until it had become a neutral state. Afterward, diethyl ether was distilled off, thereby obtaining 716 g of crude o-isobutylstyrene.

reactant | o-bromostyrene | 5 moles, 915 g | BrC1=C(C=C)C=CC=C1 | C8H7Br
reactant | isobutylmagnesium bromide | C(C(C)C)[Mg]Br
solvent | diethyl ether | C(C)OCC | C4H10O
product | o-isobutylstyrene | 716 g | C(C(C)C)C1=C(C=C)C=CC=C1 | C12H16
